US07648989B2
Preparation of [2-(4-Methyl-piperazin-1-yl)-5-trifluoromethyl-pyridin-4-yl]-acetic acid tert-butyl ester
Sodium tert-butoxide (354 mg, 3.68 mmol) is dried under high vacuum at approximately 80° C. After purging with argon and cooling to RT, palladium acetate (60 mg, 0.27 mmol), rac-2,2′-bis-diphenylphosphanyl-[1,1]binaphthalenyl (rac-BINAP, 83 mg, 0.13 mmol) and (2-chloro-5-trifluoromethyl-pyridin-4-yl)-acetic acid tert-butyl ester (990 mg, 3.35 mmol) are added. The mixture is dissolved in dioxane (11 ml, degassed with three freeze-thaw cycles under HV/argon), and 1-methyl-piperazine (369 mg, 3.68 mmol) is added. The round bottom flask containing the reaction mixture is immersed into a pre-heated oil bath (T=85° C.). After 1 h, TLC analysis indicated almost complete conversion of starting materials. The reaction mixture is cooled to RT, diluted with EtOAc and poured into a saturated aqueous NH4Cl solution. The organic layer is separated, washed with brine, dried over Na2SO4, and the solvent is evaporated. The residue is purified by FCC (CH2Cl2/MeOH, slow gradient from 99:1 to 94:6) to afford the title compound. 1H NMR (CDCl3, 400 MHz): δ 1.44 (s, 9H), 2.34 (s, 3H), 2.50 (m, 4H), 3.59 (s, 2H), 3.66 (m, 4H), 6.54 (s, 1H), 8.35 (s, 1H). ES+−MS: 360.3 [M+H]+.

reactant | Sodium tert-butoxide | 3.68 mmol, 354 mg | CC(C)([O-])C.[Na+]
reactant | rac-2,2′-bis-diphenylphosphanyl-[1,1]binaphthalenyl | 0.13 mmol, 83 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | (2-chloro-5-trifluoromethyl-pyridin-4-yl)-acetic acid tert-butyl ester | 3.35 mmol, 990 mg | C(C)(C)(C)OC(CC1=CC(=NC=C1C(F)(F)F)Cl)=O | C12H13ClF3NO2
reactant | 1-methyl-piperazine | 3.68 mmol, 369 mg | CN1CCNCC1 | C5H12N2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | dioxane | 11 ml | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | palladium acetate | 0.27 mmol, 60 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | [2-(4-Methyl-piperazin-1-yl)-5-trifluoromethyl-pyridin-4-yl]-acetic acid tert-butyl ester | C(C)(C)(C)OC(CC1=CC(=NC=C1C(F)(F)F)N1CCN(CC1)C)=O | C17H24F3N3O2
